US09212190B2
For the preparation of the starting material compound 47.1, see Example 47. A solution of iodine (244 mg), Ph3P (252 mg) and imidazole (143 mg, 2.10 mmol, 3.49 equiv) in dry dichloromethane (20 mL) was stirred at 0° C. for 30 min under nitrogen. Then a solution of tert-butyl N-(4-[[(3R)-3-[2-hydroxy-2-(1,3-oxazol-2-yl)ethyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate (310 mg, 0.60 mmol, 1.00 equiv) was added dropwise to the reaction mixture and the resulting solution was stirred for 2.5 h at room temperature. The reaction was then quenched with saturated aqueous NaHSO3 and extracted with 2×30 mL of dichloromethane. The organic layers were combined and washed with brine, dried over anhydrous sodium sulfate. After concentrated in vacuo, the residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:1) to give tert-butyl N-(4-[[(3R)-3-[2-iodo-2-(1,3-oxazol-2-yl)ethyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate (230 mg, 61%) as a yellow solid. MS (ES): m/z 625 (M+H)+.

reactant | iodine | 244 mg | II | I2
reactant | Ph3P | 252 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | imidazole | 2.10 mmol, 143 mg, 3.49 equiv | N1C=NC=C1 | C3H4N2
reactant | tert-butyl N-(4-[[(3R)-3-[2-hydroxy-2-(1,3-oxazol-2-yl)ethyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate | 0.60 mmol, 310 mg, 1.00 equiv | OC(C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)N(C(OC(C)(C)C)=O)C)C=1OC=CN1 | C26H34N4O5S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | tert-butyl N-(4-[[(3R)-3-[2-iodo-2-(1,3-oxazol-2-yl)ethyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate | 230 mg, 61% | IC(C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)N(C(OC(C)(C)C)=O)C)C=1OC=CN1 | C26H33IN4O4S
